US09388197B2
A.2.2.1. Synthesis of 2-(bromomethyl)-4,6-dichlorobenzonitrile
A soln. of 2,4-dichloro-6-methylbenzonitrile (16.9 mmol) in 34 mL chlorobenzene was heated to 50° C. when NBS (18.6 mmol) was added. The flask was purged with Ar before AIBN (1.69 mmol) was added at once still at 50° C. The reaction mixture was then stirred at 78° C. After 2 h and 4 h, another portion of AIBN (1.69 mmol) was added and heating to 78° C. was continued overnight. The solvent was then evaporated off, the resulting residue was redissolved in Et2O and the remaining solid was removed by filtration. The filtrate was washed twice with 2N HCl solution and brine, it was dried over MgSO4 and conc. in vacuo. Purification with CC (0-100% EtOAc/Hept) gives the desired compound as yellowish solid.

reactant | 2,4-dichloro-6-methylbenzonitrile | 16.9 mmol | ClC1=C(C#N)C(=CC(=C1)Cl)C | C8H5Cl2N
reactant | NBS | 18.6 mmol | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 1.69 mmol | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | AIBN | 1.69 mmol | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | chlorobenzene | 34 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 2-(bromomethyl)-4,6-dichlorobenzonitrile | BrCC1=C(C#N)C(=CC(=C1)Cl)Cl | C8H4BrCl2N
